US07001897B2
To a solution of 1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (676 mg, 2.96 mmol) (obtained as described in Reference Example 1(2)) in methylene chloride (20.5 ml) were added methanesulfonyl chloride (0.28 ml, 3.63 mmol) and triethylamine (0.495 ml, 3.56 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 2 hours. After checking the completion of the reaction, ethanol was added to the reaction mixture in an ice bath and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:2) as the eluant to afford 1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (748 mg, yield 82%) as a pale brown solid.

reactant | 1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 2.96 mmol, 676 mg | C(C)OC(=O)C=1N=C(SC1)N1CC(C1)O | C9H12N2O3S
reactant | methanesulfonyl chloride | 3.63 mmol, 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.56 mmol, 0.495 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | 20.5 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-ethoxycarbonyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 748 mg, yield 82% | C(C)OC(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C10H14N2O5S2
